US05306728
Production of (E,E)-N-ethyl-N-(6,6-dimethyl-2-hepten-4-ynyl)-3-[3-(3-thienyl)-2-propenyloxymethyl]benzylamine hydrochloride
Compounds of Examples 2 to 7 were obtained by s performing the same reaction as in Example 1 except that the corresponding bromomethyl or chloromethyl derivatives and/or 2-hepten-4-ynylamine derivatives were used instead of the starting compounds, (E)-3-[3--(3-thienyl)-2-propenyloxymethyl]benzyl bromide and/or (E)- N-ethyl-6,6-dimethyl-2-hepten-4-ynylamine hydrochloride, which were used in the above-mentioned reaction. ( When the reaction product was a free base, the hydrochloride producing step in the after-treatment was not included.)

reactant | 2-hepten-4-ynylamine | C(C=CC#CCC)N | C7H11N
reactant | (E)-3-[3--(3-thienyl)-2-propenyloxymethyl]benzyl bromide | S1C=C(C=C1)/C=C/COCC=1C=C(CBr)C=CC1 | C15H15BrOS
reactant | (E)- N-ethyl-6,6-dimethyl-2-hepten-4-ynylamine hydrochloride | Cl.C(C)NC\C=C\C#CC(C)(C)C
reactant | hydrochloride | Cl | ClH
product | (E,E)-N-ethyl-N-(6,6-dimethyl-2-hepten-4-ynyl)-3-[3-(3-thienyl)-2-propenyloxymethyl]benzylamine hydrochloride | Cl.C(C)N(C\C=C\C#CC(C)(C)C)CC1=CC(=CC=C1)COC\C=C\C1=CSC=C1 | InChI=1S/C26H33NOS.ClH/c1-5-27(16-8-6-7-15-26(2,3)4)20-24-11-9-12-25(19-24)21-28-17-10-13-23-14-18-29-22-23;/h6,8-14,18-19,22H,5,16-17,20-21H2,1-4H3;1H/b8-6+,13-10+;
